US03996204
Example 2 ar-Vinylbenzylaziridine
To a 1-liter, 3-necked flask equipped with a mechanical stirrer, reflux condenser and dropping funnel was charged 86 g. (2.0 mole) of aziridine, 66 g. of 85% powdered KOH (1.0 mole) and 400 ml. of benzene. The mixture was stirred and heated to reflux and 76.25 g. (0.5 mole) of ar-vinylbenzyl chloride containing 0.1% by weight of p,p'-diphenylphenylene diamine inhibitor was added over 15 minutes. The ar-vinylbenzyl chloride was an isomeric mixture consisting of approximately 60-70% meta isomer and 40-30% para isomer. The reaction mixture was then stirred rapidly under reflux for four hours, cooled to room temperature, filtered through a filter cell and the filtrate concentrated at reduced pressure to give 72.4 g. (91.1%) of crude product. This crude product was distilled at reduced pressure to give 63.1 g. (79.4%) of water-white N-ar-vinylbenzylaziridine b.p. 72°-73°/0.6 mm. whose identity was established by IR and NMR. Its purity was found to be greater than 99% by vapor phase chromatography on a G.E. silicone column (10 ft. × 1/4 in.) at 200° C. and 60 ml./min. helium flow rate.

reactant | aziridine | 2.0 mole | N1CC1 | C2H5N
reactant | KOH | 1.0 mole | [OH-].[K+]
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | ar-vinylbenzyl chloride | 0.5 mole | C=CC1=CC(=CC=C1)CCl | C9H9Cl
solvent | water | O | H2O
product | Vinylbenzylaziridine | C(=C)C1N(C1)CC1=CC=CC=C1 | C11H13N
